* NGSPICE file created from wl_driver.ext - technology: sky130B

.subckt wl_driver IN OUT VDD VWL VSS
X0 OUT a_423_138# VSS VSS sky130_fd_pr__nfet_g5v0d10v5 ad=0.58 pd=4.58 as=0.58 ps=4.58 w=2 l=0.5
X1 a_423_138# IN VSS VSS sky130_fd_pr__nfet_g5v0d10v5 ad=0.58 pd=4.58 as=0.58 ps=4.58 w=2 l=0.5
X2 a_342_589# a_57_213# VSS VSS sky130_fd_pr__nfet_g5v0d10v5 ad=0.58 pd=4.58 as=0.58 ps=4.58 w=2 l=0.5
X3 a_57_213# IN VDD VDD sky130_fd_pr__pfet_01v8 ad=0.27 pd=2.54 as=0.27 ps=2.54 w=1 l=0.15
X4 OUT a_423_138# VWL VWL sky130_fd_pr__pfet_g5v0d10v5 ad=1.16 pd=8.58 as=1.16 ps=8.58 w=4 l=0.5
X5 a_57_213# IN VSS VSS sky130_fd_pr__nfet_01v8 ad=0.135 pd=1.54 as=0.135 ps=1.54 w=0.5 l=0.15
X6 a_423_138# a_342_589# VWL VWL sky130_fd_pr__pfet_g5v0d10v5 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=0.5
X7 a_342_589# a_423_138# VWL VWL sky130_fd_pr__pfet_g5v0d10v5 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=0.5
.ends

